US05554607
3-(2-Chloro-6-methylphenyl)-1-methyl-2-thioxo-imidazolidin-4-one
The title compound was prepared by the procedure described in Example 1 using 9.2 g of 2-chloro-6-methylphenyl-isothiocyanate, 7.68 g of sarcosine ethyl ester hydrochloride, 12 g of triethyl amine, and 200 mL of chloroform. Crystallization from ethanol afforded the title compound (7.1 g) as an orange solid (7.1 g), m.p. 142°-145° C. Anal. Calcd. for. C11H11N2O S: C, 51.87; H, 4.35; N,11.00. Found: C, 51.96; H, 4.26; N, 10.97. Mass spectrum (El, M.+) m/z 254.

reactant | 2-chloro-6-methylphenyl-isothiocyanate | 9.2 g | ClC1=C(C(=CC=C1)C)N=C=S | C8H6ClNS
reactant | sarcosine ethyl ester hydrochloride | 7.68 g | Cl.C(C)OC(CNC)=O
reactant | triethyl amine | 12 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-Chloro-6-methylphenyl)-1-methyl-2-thioxo-imidazolidin-4-one | 7.1 g | ClC1=C(C(=CC=C1)C)N1C(N(CC1=O)C)=S | C11H11ClN2OS
